US04319024
9.35 g (0.05 mol) of 2-benzyl-3-ethoxyacrylonitrile and 17.4 g (0.2 mol) of morpholine are refluxed for 20 h. Subsequent vacuum distillation yields 4.6 g of 2-benzyl-3-morpholinoacrylonitrile (81% with respect to the reacted 2-benzyl-3-ethoxyacrylonitrile (50%).

reactant | 2-benzyl-3-ethoxyacrylonitrile | 0.05 mol, 9.35 g | C(C1=CC=CC=C1)C(C#N)=COCC | C12H13NO
reactant | morpholine | 0.2 mol, 17.4 g | N1CCOCC1 | C4H9NO
product | 2-benzyl-3-morpholinoacrylonitrile | 4.6 g | C(C1=CC=CC=C1)C(C#N)=CN1CCOCC1 | C14H16N2O
